US06749988B2
A mixture of 115 9 of 1-(2-hydroxyethyl)pyrrolidine and 500 g of formic acid was heated at 80° C. for 10 hours. The reaction mixture was concentrated in vacuum, diluted with ethyl acetate, and neutralized with saturated sodium bicarbonate in water. This was followed by separation, water washing, drying over anhydrous sodium sulfate, and vacuum concentration. Purification by vacuum distillation yielded 2-(1-pyrrolidinyl)ethyl formate, designated (B-10].

reactant | 1-(2-hydroxyethyl)pyrrolidine | OCCN1CCCC1 | C6H13NO
reactant | formic acid | 500 g | C(=O)O | CH2O2
product | 2-(1-pyrrolidinyl)ethyl formate | C(=O)OCCN1CCCC1 | C7H13NO2
